US08729061B2
(2S,3S)-3-Amino-N-butyl-2-hydroxypentanamide dihydrochloride
The title compound was prepared in analogy to (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride, Representative Procedure A, using 1-isocyanobutane in the third step (A3).

reactant | (2S,3S)-3-amino-N-cyclopropyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NC1CC1)O)CC
reactant | 1-isocyanobutane | [N+](#[C-])CCCC | C5H9N
product | (2S,3S)-3-Amino-N-butyl-2-hydroxypentanamide dihydrochloride | Cl.Cl.N[C@H]([C@@H](C(=O)NCCCC)O)CC | InChI=1S/C9H20N2O2.2ClH/c1-3-5-6-11-9(13)8(12)7(10)4-2;;/h7-8,12H,3-6,10H2,1-2H3,(H,11,13);2*1H/t7-,8-;;/m0../s1
